US05130313
A solution of 1-(3-chloropropyl)-5,6-dihydro-(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide (4 g), 4-(4-hydroxyphenyl)piperazine (4.75 g) and triethylamine (5.88 cc) in dry N,N-dimethylformamide (50 cc) is heated to reflux for 90 minutes and is then cooled and poured into a mixture of water (300 cc) and ethyl acetate (300 cc). The organic phase is washed with water (3×200 cc), is dried over magnesium sulphate and is concentrated to dryness under reduced pressure (2.7 kPa). The solid is recrystallized from ethyl acetate (300 cc) and dried. 1-[3-(4-(4-Hydroxyphenyl)-1-piperazinyl)propyl]-5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide (2.8 g) is obtained, melting at 182° C.

reactant | 1-(3-chloropropyl)-5,6-dihydro-(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide | 4 g | ClCCCN1S(N2CCCC3=CC=CC1=C23)(=O)=O | C12H15ClN2O2S
reactant | 4-(4-hydroxyphenyl)piperazine | 4.75 g | OC1=CC=C(C=C1)N1CCNCC1 | C10H14N2O
reactant | triethylamine | 5.88 cc | C(C)N(CC)CC | C6H15N
reactant | water | 300 cc | O | H2O
solvent | N,N-dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
product | 1-[3-(4-(4-Hydroxyphenyl)-1-piperazinyl)propyl]-5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide | 2.8 g | OC1=CC=C(C=C1)N1CCN(CC1)CCCN1S(N2CCCC3=CC=CC1=C23)(=O)=O | C22H28N4O3S
